US05235053
To a solution of 1.0 g of 4-hydroxypyrrolo[2,3-d]pyrimidine in 20 ml of DMF, 3.8 g (2.5 eq) of bis(trimethylsilyl)acetamide was added, and the resulting solution was stirred at 40° C. in an oil bath for about two hours. Completeness of silylation was indicated by NMR analysis of an aliquot showing disappearance of the N-3 proton signal. The reaction was cooled to ambient temperature and 1.6 g (1.2 eq) of N-bromosuccinimide (NBS), was added in one portion. The reaction mixture was protected from light and stirred at ambient temperature until completion was indicated by NMR analysis (disappearance of pyrrole C-H doublets and emergence of a single, finely split doublet at δ7.16, about 2 h). The mixture was poured into 50 mL of water, with stirring. After 1-2 hours, the product was collected by filtration, washed with water, dried, and reslurried in 10 volumes of 10% methanol in chloroform. Filtration and drying gave 1.2 g of 4-hydroxy-5-bromopyrrolo-[2,3-d]pyrimidine (75% yield), mp 269-°271° C. (dec). 1H NMR (300 MHz, DMSO-d6) δ7.16 (d, J=2.0 Hz, 1 H), 7.80 (d, J=2.1 Hz, 1 H), 11.87 (s, 1 H), 12.15 (s, 1 H). 13C NMR (75.5 MHz, DMSO-d6) 89.3, 105.5, 120.4, 144.3, 147.4, 157.5.

reactant | 4-hydroxypyrrolo[2,3-d]pyrimidine | 1.0 g | OC1=C2C(NC=N1)=NC=C2 | C6H5N3O
reactant | bis(trimethylsilyl)acetamide | 3.8 g, 2.5 eq | C[Si](C)(C)C(C(=O)N)[Si](C)(C)C | C8H21NOSi2
reactant | N-bromosuccinimide | 1.6 g, 1.2 eq | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | water | 50 mL | O | H2O
solvent | DMF | 20 ml | CN(C)C=O | C3H7NO
product | 4-hydroxy-5-bromopyrrolo-[2,3-d]pyrimidine | 1.2 g, 75% yield | OC1=C2C(NC=N1)=NC=C2Br | C6H4BrN3O
